US04063022
A. 1-(3,4-Dichlorobenzyl)-2-imidazolidinone
A 21.5 g (0.25 mole) portion of 2-imidazolidinone in 250 ml of dimethylsulfoxide was treated with 34.5 g (0.25 mole) of K2CO3, 10.0 g (0.06 mole of KI and 49.0 g (0.25 mole) of 3,4-Dichlorobenzyl chloride. The reaction mixture was heated at 100° for 3 hours and poured into 1.8 1 of H2O. The aqueous mixture was extracted with 1.3 1 of chloroform. The chloroform extract was washed with 500 ml of H2O, dried over MgSO4 overnight and filtered. The filtrate was concentrated to dryness to give 14 g (23%) of a light yellow semisolid. The crude product was crystallized using 20 ml of acetonitrile, filtered, washed with ether, air dried and dried at 60° for 2 hrs to give 10.5 g (17%) of a white solid, m.p. 129°-130°. An analytical sample, m.p. 129°- 130°, was a portion of the above crystallized product.

reactant | 2-imidazolidinone | N1C(NCC1)=O | C3H6N2O
reactant | K2CO3 | 0.25 mole, 34.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3,4-Dichlorobenzyl chloride | 0.25 mole, 49.0 g | ClC=1C=C(CCl)C=CC1Cl | C7H5Cl3
reactant | H2O | O | H2O
solvent | dimethylsulfoxide | 250 ml | CS(=O)C | C2H6OS
product | 1-(3,4-Dichlorobenzyl)-2-imidazolidinone | 14 g, 23% | ClC=1C=C(CN2C(NCC2)=O)C=CC1Cl | C10H10Cl2N2O
